US07423052B2
Description 72 (RS)-2-[2-phenyl-2-oxo-ethoxycarbonylmethyl]-piperidine-1-carboxylic tert butyl ester
The title compound (7.07 g) was prepared from (RS)-2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (5.0 g) and 2-bromoacetophenone (4.18 g) according to the method of description 36.

reactant | (RS)-2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 5.0 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 2-bromoacetophenone | 4.18 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
product | (RS)-2-[2-phenyl-2-oxo-ethoxycarbonylmethyl]-piperidine-1-carboxylic tert butyl ester | 7.07 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)OCC(=O)C1=CC=CC=C1 | C20H27NO5
